US05736487
N-[4-(Benzothiazol-2-ylmethylthio)phenyl]acetamide (Compound No. A1.3)
79.7 mg of sodium hydride (as a 60% w/w dispersion in mineral oil) were added to a solution of 303.1 mg of 4-acetamidothiophenol in 6 ml of dimethylformamide at room temperature, followed by the addition of a solution of 454.8 mg of 2-bromomethyl-benzothiazole in 1 ml of dimethylformamide. The resulting mixture was stirred at room temperature for 2 hours, after which the reaction mixture was diluted with ethyl acetate, washed with water and then dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure and the resulting residue was purified by column chromatography through silica gel using a 1:2 by volume mixture of hexane and ethyl acetate as the eluent, to give 462.7 mg (yield 81%) of the title compound as a solid having a melting point of 147° to 149° C.

reactant | sodium hydride | 79.7 mg | [H-].[Na+]
reactant | 4-acetamidothiophenol | 303.1 mg | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
reactant | 2-bromomethyl-benzothiazole | 454.8 mg | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(Benzothiazol-2-ylmethylthio)phenyl]acetamide | 462.7 mg, yield 81% | S1C(=NC2=C1C=CC=C2)CSC2=CC=C(C=C2)NC(C)=O | C16H14N2OS2
